US04602032
(c) 9-ethylamino-3,4-dimethoxy-6-methyl-phenanthrene (compound of formula VII)
1700 ml (2.05M) of a 20% solution of diisobutylaluminium hydride in toluene are added at room temperature over a period of 45 minutes to a suspension of 105.7 g (0.342M) of 9-acetylamino-3,4-dimethoxy-6-methyl-phenanthrene in 1500 ml anhydrous tetrahydrofuran. The mixture is then warmed with stirring under a nitrogen atmosphere for 2 hours at 80°. The reaction mixture is then cooled at 0° and under nitrogen atmosphere and a mixture of 2500 ml 2N hydrochloric acid/ice, cooled at -10°, is added by portions at such a rate that the gas evolution is maintained. The acid solution is made alkaline to pH 10 by addition at 0° of 3 liters 2N sodium hydroxide and the mixture is extracted three times with methylene chloride/2-propanol 7:3. The organic phases are combined, washed, dried and evaporated to give the title compound. M.pt. 100°-102° after crystallisation from acetone/ether.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 9-acetylamino-3,4-dimethoxy-6-methyl-phenanthrene | 0.342M, 105.7 g | C(C)(=O)NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C19H19NO3
reactant | sodium hydroxide | 2N, 3 liters | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
product | 9-ethylamino-3,4-dimethoxy-6-methyl-phenanthrene | C(C)NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C19H21NO2
